US05684034
2-Ethyl-5-hydroxy-1-(phenylmethyl)-1H-indole-3-acetamide (308 mg, 1 mmol) was reacted with 40 mg (1 mmol) of 60% NaH/mineral oil and then with 0.15 mL (1 mmol) of ethyl 4-bromobutyrate as described in Example 56. Part D to give a product that was chromatographed on silica gel eluting with 50% EtOAc/hexane to give 231 mg (55% yield) of [4-[[3-(2-amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1-H-indol-5-yl]oxy]butanoic acid ethyl ester.

reactant | 2-Ethyl-5-hydroxy-1-(phenylmethyl)-1H-indole-3-acetamide | 1 mmol, 308 mg | C(C)C=1N(C2=CC=C(C=C2C1CC(=O)N)O)CC1=CC=CC=C1 | C19H20N2O2
reactant | NaH | 1 mmol, 40 mg | [H-].[Na+]
reactant | ethyl 4-bromobutyrate | 1 mmol, 0.15 mL | BrCCCC(=O)OCC | C6H11BrO2
product | 4-[[3-(2-amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1-H-indol-5-yl]oxy]butanoic acid ethyl ester | 55% yield | C(C)OC(CCCOC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)CC)CC(=O)N)=O | C25H30N2O4
